US08633218B2
2-(8-Aza-bicyclo[3.2.1]oct-2-en-3-yl)-benzo[b]thiophen-5-ol hydrochloric acid salt (Compound 3.1)
3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-aza-bicyclo[3.2.1]oct-2-ene (0.30 g, 1.105 mmol) was solved in dichloromethane (25 ml) and was cooled on an ice-bath. Borontribromide (1 M, 2.21 ml, 2.21 mmol) was added dropwise under cooling, followed by stirring for 15 hours at room-temperature. Water (40 ml) was added and the mixture was made alkaline by adding aqueous ammonia. The product was filtered and was recrystallised with ethanol (25 ml, 96%) and HCl in ethanol (0.5 ml, 3 M). Yield 0.15 g (46%).

reactant | 3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-aza-bicyclo[3.2.1]oct-2-ene | 1.105 mmol, 0.30 g | COC1=CC2=C(SC(=C2)C2=CC3CCC(C2)N3)C=C1 | C16H17NOS
reactant | Water | 40 ml | O | H2O
reactant | ammonia | N | H3N
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(8-Aza-bicyclo[3.2.1]oct-2-en-3-yl)-benzo[b]thiophen-5-ol hydrochloric acid salt | Cl.C12C=C(CC(CC1)N2)C2=CC1=C(S2)C=CC(=C1)O | InChI=1S/C15H15NOS.ClH/c17-13-3-4-14-10(7-13)8-15(18-14)9-5-11-1-2-12(6-9)16-11;/h3-5,7-8,11-12,16-17H,1-2,6H2;1H
